US08309718B2
Step 1. (4-(tert-butyl(dimethyl)silyl)oxycyclohexylidene)acetonitrile
To a solution of 1.0 M of potassium tert-butoxide in tetrahydrofuran (46.0 mL) at 0° C. was added drop wise a solution of diethyl cyanomethylphosphonate (7.80 mL, 0.0482 mol) in tetrahydrofuran (80 mL). The reaction was warmed to room temperature and then cooled at 0° C. again. To the reaction mixture was a solution of 4-(tert-butyl(dimethyl)silyl)oxycyclohexanone (10.0 g, 0.04378 mol) in tetrahydrofuran (40 mL). The reaction was allowed to warm up to room temperature and stirred overnight. After being quenched with water, the mixture was extracted with ether. The combined organic layers were washed with water, brine, dried over MgSO4 and evaporated to dryness. The crude mixture was purified on silica gel, eluting with 0 to 20% EtOAc in hexanes, to give the desired product (8.54 g, 77.58%). LCMS (M+H) 252.4.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0482 mol, 7.80 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-(tert-butyl(dimethyl)silyl)oxycyclohexanone | 0.04378 mol, 10.0 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)=O | C12H24O2Si
solvent | tetrahydrofuran | 46.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (4-(tert-butyl(dimethyl)silyl)oxycyclohexylidene)acetonitrile | 8.54 g, 77.58% | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)=CC#N | C14H25NOSi
